US04902339
1-[(2-(Phenylmethylthio)phenylmethyl]-2-pyrrolidinone
To a solution of 1.35 g of potassium-tert-butoxide in 25 mL of dimethylformamide, cooled to 0° C., was added 0.92 mL of 2-pyrrolidinone. As a white precipitate formed, the mixture was stirred for 10 minutes, and 3.0 g of 2-phenylmethylthio chloromethyl benzene was added in one portion. The resulting solution was allowed to warm to room temperature, stirred for 1 hour, poured into water, and extracted with methylene chloride. The organic layer was washed well with water, dried over magnesium sulfate, filtered, and the filtrate evaporated to leave 3.0 g of a yellow oil.

reactant | potassium-tert-butoxide | 1.35 g | CC(C)([O-])C.[K+]
reactant | 2-pyrrolidinone | 0.92 mL | N1C(CCC1)=O | C4H7NO
reactant | 2-phenylmethylthio chloromethyl benzene | 3.0 g | C1(=CC=CC=C1)CSC1=C(C=CC=C1)CCl | C14H13ClS
reactant | water | O | H2O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | (2-(Phenylmethylthio)phenylmethyl]-2-pyrrolidinone | 3.0 g | C1(=CC=CC=C1)CSC1=C(C=CC=C1)CN1C(CCC1)=O | C18H19NOS
